US07615642B2
Step B. 9H-fluoren-9-ylmethyl 2-[(cyclopropylamino)carbonyl]morpholine-4-carboxylate
HATU (1.17 g, 3.0 mmol) and cyclopropylamine (0.17 g, 3.0 mmol) were added to a solution of 4-[(9H-fluoren-9-ylmethoxy)carbonyl]morpholine-2-carboxylic acid (1.0 g, 2.9 mmol) and DIPEA (0.56 mL, 3.2 mmol) in DMF (50 mL). The reaction mixture was stirred for 2 hrs. at ambient temperature and the solvent was concentrated. The product was recovered in EtOAc and washed with water, saturated NaHCO3 solution, water and brine. The organic layer was dried over anhydrous MgSO4 and the solvent was concentrated to provide the title compound that was used for the next step without further purification. MS (ESI) (M+H)+=393.0.

reactant | HATU | 3.0 mmol, 1.17 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopropylamine | 3.0 mmol, 0.17 g | C1(CC1)N | C3H7N
reactant | 4-[(9H-fluoren-9-ylmethoxy)carbonyl]morpholine-2-carboxylic acid | 2.9 mmol, 1.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CC(OCC1)C(=O)O | C20H19NO5
reactant | DIPEA | 3.2 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 9H-fluoren-9-ylmethyl 2-[(cyclopropylamino)carbonyl]morpholine-4-carboxylate | C1(CC1)NC(=O)C1CN(CCO1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C23H24N2O4
